US08076345B2
2-(4-((1H-Indol-6-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (100 mg, 0.35 mmol) and 1-(1H-indol-5-yl)-methylamine (139 mg, 0.95 mmol) in acetonitrile (1 mL) and N,N-diisopropylethylamine (0.4 mL, 2 mmol) was subjected to microwave irradiation at 185° C. for 3 h. The reaction mixture was concentrated and the residue was purified by preparative HPLC (30-60% acetonitrile-water [10 mM DEA]) to afford a light yellow solid.

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 0.35 mmol, 100 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | 1-(1H-indol-5-yl)-methylamine | 0.95 mmol, 139 mg | N1C=CC2=CC(=CC=C12)CN | C9H10N2
reactant | N,N-diisopropylethylamine | 2 mmol, 0.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 2-(4-((1H-Indol-6-yl)methylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | N1C=CC2=CC=C(C=C12)CNC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C24H22N6
